US08466167B2
A solution of 3,5-dichloropicolinonitrile (1.0 eq.), (E)-2-(3-methoxyprop-1-enyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.0 eq.), tetrakis(triphenyl-phosphine)palladium (5 mol %), and 2N aqueous sodium carbonate solution (3.4 eq.) in toluene/ethanol (2:1, 0.04 M) was stirred at 100° C. for 2 hours, then 80° C. for 4 hours. After cooling to ambient temperature, the reaction content was diluted with ethyl acetate and water. The two phases were separated, and the aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous MgSO4, and concentrated en vacuo. The crude product was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-80% ethyl acetate in hexane to give (E)-3-chloro-5-(3-methoxyprop-1-enyl)picolinonitrile as a white solid.

reactant | 3,5-dichloropicolinonitrile | 1.0 eq. | ClC=1C(=NC=C(C1)Cl)C#N | C6H2Cl2N2
reactant | (E)-2-(3-methoxyprop-1-enyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.0 eq. | COC/C=C/B1OC(C(O1)(C)C)(C)C | C10H19BO3
reactant | sodium carbonate | 2N, 3.4 eq. | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol | 0.04 M | C1(=CC=CC=C1)C.C(C)O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (E)-3-chloro-5-(3-methoxyprop-1-enyl)picolinonitrile | ClC=1C(=NC=C(C1)\C=C\COC)C#N | C10H9ClN2O
